simulator lang=spectre
global 0

ahdl_include "../submission/lt_readout_sar4.va"

Vgnd (gnd 0) vsource dc=0
Vd0 (d0 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 1.8 2.0n 1.8 2.05n 0 3.0n 0 3.05n 1.8 4.0n 1.8]
Vd1 (d1 0) vsource type=pwl wave=[0 0 2.0n 0 2.05n 1.8 4.0n 1.8]
Vd2 (d2 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 1.8 2.0n 1.8 2.05n 0 3.0n 0 3.05n 1.8 4.0n 1.8]
Vd3 (d3 0) vsource type=pwl wave=[0 0 2.0n 0 2.05n 1.8 4.0n 1.8]
XDUT (d0 d1 d2 d3 vout gnd) lt_readout_sar4

tran tran stop=3.8n maxstep=5p
save d0 d1 d2 d3 vout gnd
